US07238716B2
To a mixture of 4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyl 2-[3-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetate (2.40 g), tetrahydrofuran (7 mL) and ethanol (7 mL) was added 1N aqueous sodium hydroxide solution (7.0 mL) and the mixture was stirred overnight at room temperature. The reaction mixture was concentrated, and water and diethyl ether were added to the residue. Dilute hydrochloric acid was added to acidify the aqueous layer, and the precipitated solid was collected by filtration, and dried with air to give crystals (1.24 g, 85%) of 2-[3-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetic acid. Recrystallization from acetone-hexane gave colorless prism crystals. melting point: 159-160° C.

reactant | 4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyl 2-[3-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetate | 2.40 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC=2C=C(C=CC2)CC(=O)OCC2=CC=C(C=C2)OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C44H38N2O7
reactant | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 7.0 mL | [OH-].[Na+]
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | 2-[3-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetic acid | 1.24 g, 85% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC=2C=C(C=CC2)CC(=O)O)C=C1 | C26H23NO5
